### PR TITLE
Catalan' conjecture

### PR DESCRIPTION
**Pull request by seewoo5**
Another easy target from #104.

### CODE REVIEW

File: FormalConjectures/Wikipedia/Catalan.lean [hunk 1]
```diff
@@ -0,0 +1,33 @@
...
+-/
+
+/--
+The only solution to the equation `x^a - y^b = 1` for `a, b > 1` and `x, y > 0`
+is `a = 2`, `b = 3`, `x = 3`, and `y = 2`.
+-/
+@[category research solved, AMS 11]
+theorem catalan_conjecture (a b x y : ℕ) : (1 < a) ∧ (1 < b) ∧ (0 < x) ∧ (0 < y)
+    ∧ (x ^ a - y ^ b = 1)
+    → (a = 2 ∧ b = 3 ∧ x = 3 ∧ y = 2) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Catalan.lean]:
```suggestion
theorem catalans_conjecture (a b x y : ℕ) (ha : 1 < a) (hb : 1 < b) (hx : 0 < x) (hy : 0 < y)
    (x ^ a - y ^ b = 1) : (a = 2 ∧ b = 3 ∧ x = 3 ∧ y = 2) := by
```

File: FormalConjectures/Wikipedia/Catalan.lean [hunk 2]
```diff
@@ -0,0 +1,33 @@
...
+
+/-!
+# Catalan's conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Catalan%27s_conjecture)
+-/
+
+/--
+The only solution to the equation `x^a - y^b = 1` for `a, b > 1` and `x, y > 0`
+is `a = 2`, `b = 3`, `x = 3`, and `y = 2`.
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Catalan.lean]:
```suggestion
The only natural number solution to the equation $x^a - y^b = 1$ such that $a, b > 1$ and
$x, y > 0$ is given by $a = 2$, $b = 3$, $x = 3$, and $y = 2$.
```

**Review by callesonne — COMMENTED** [review]
Thanks for the contribution! Here are some style comments.

**Review by callesonne — APPROVED** [review]
Thanks!

File: FormalConjectures/Wikipedia/Catalan.lean [hunk 3]
```diff
@@ -0,0 +1,32 @@
...
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Catalan%27s_conjecture)
+-/
+
+/--
+The only natural number solution to the equation $x^a - y^b = 1$ such that $a, b > 1$ and
+$x, y > 0$ is given by $a = 2$, $b = 3$, $x = 3$, and $y = 2$.
+-/
+@[category research solved, AMS 11]
+theorem catalans_conjecture (a b x y : ℕ) (ha : 1 < a) (hb : 1 < b) (hx : 0 < x) (hy : 0 < y)
+    (x ^ a - y ^ b = 1) : (a = 2 ∧ b = 3 ∧ x = 3 ∧ y = 2) := by
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/Catalan.lean]:
```suggestion
    (heq : x ^ a - y ^ b = 1) : a = 2 ∧ b = 3 ∧ x = 3 ∧ y = 2 := by
```
I forgot to name the hypothesis in my previous suggestion, and actually this doesn't need a parenthesis anymore.
